US07964732B2
(R)-N-(1-(1,5-dimethyl-1H-pyrazol-4-yl)ethyl)-2-(trifluoromethyl) quinoline-6-carboxamide
2-Trifluoromethylquinoline-6-carboxylic acid (100 mg, 0.415 mmol) was dissolved in DCM (10 mL) and N,N-di-iso-propylethylamine (Hunig's base, 268 μl, 1.54 mmol) was added. HATU (158 mg, 0.415 mmol) was added followed by (1R)-1-[1,5-dimethyl-1H-pyrazol-4-yl]ethanamine dihydrochloride (88 mg, 0.415 mmol) and the solution was stirred at RT overnight. The reaction mixture was concentrated and the residue was dissolved in EtOAc (65 mL) then partitioned with sat. aq. NaHCO3 (2×20 mL) and then brine (30 mL). The organic layer dried over MgSO4, filtered and solvent removed under reduced pressure to give a golden oil/gum. The product was purified using an ISCO (12 g column), eluting with EtOAc:Heptane (5:95 increasing to 100:0). Fractions containing pure product concentrated under reduced pressure to give a white foamy solid, 150 mg, yield=41%. 1H NMR (400 MHz, CD3OD) δ 8.68 (1H, d), 8.47-8.49 (1H, m), 8.20-8.23 (2H, m), 7.92 (1H, d), 7.48 (1H, s), 5.29 (1H, q) 3.76 (3H, s), 2.33 (3H, s) and 1.61 (3H, d). LCMS (2 min run): UV (1.37 min, 82%); ELSD (1.37 min, 100%). Mass ion: 363=MH+

reactant | 2-Trifluoromethylquinoline-6-carboxylic acid | 0.415 mmol, 100 mg | FC(C1=NC2=CC=C(C=C2C=C1)C(=O)O)(F)F | C11H6F3NO2
reactant | N,N-di-iso-propylethylamine | 1.54 mmol, 268 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.415 mmol, 158 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R)-1-[1,5-dimethyl-1H-pyrazol-4-yl]ethanamine dihydrochloride | 0.415 mmol, 88 mg | Cl.Cl.CN1N=CC(=C1C)[C@@H](C)N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-(1-(1,5-dimethyl-1H-pyrazol-4-yl)ethyl)-2-(trifluoromethyl) quinoline-6-carboxamide | yield=41% | CN1N=CC(=C1C)[C@@H](C)NC(=O)C=1C=C2C=CC(=NC2=CC1)C(F)(F)F | C18H17F3N4O
